2111-09-09 07:15:00 Physician Resident Progress Note
Chief Complaint: Metastatic Renal Cell Ca
   [**26**] Hour Events:
   Discussed with wife and patient made DNR yesterday afternoon.
   Spoke with patient
s wife, plan to make patient [**Name (NI) 617**], but will cont
   current care until rest of family arrives this AM
   Pt had CT-neck yesterday
 ARTERIAL LINE - START [**2111-9-8**] 10:09 AM
 SPUTUM CULTURE - At [**2111-9-8**] 10:33 AM
   Allergies:
   Nitroglycerin Transdermal (Transderm.) (Nitroglycerin)
   Patient reports
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 3.5 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Fentanyl - [**2111-9-8**] 08:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2111-9-9**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.3
   Tcurrent: 36.3
C (97.3
   HR: 88 (81 - 120) bpm
   BP: 112/72(87) {101/60(76) - 152/87(111)} mmHg
   RR: 13 (11 - 34) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  1,847 mL
                                                                    175 mL
   PO:
             TF:
   IVF:
                                                                  1,847 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                    510 mL
                                                                    250 mL
   Urine:
                                                                    510 mL
                                                                    250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,337 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 27 (27 - 27) mL
   RR (Set): 12
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 19 cmH2O
   SpO2: 96%
   ABG: 7.41/44/147/25/3
   Ve: 8.2 L/min
   PaO2 / FiO2: 367
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical adenopathy
   Cardiovascular: (S1: Normal), (S2: Normal), RRR
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Non -purposeful,
   Sedated, Tone: Normal
   Labs / Radiology
   446 K/uL
   9.7 g/dL
   157 mg/dL
   0.9 mg/dL
   25 mEq/L
   4.2 mEq/L
   21 mg/dL
   99 mEq/L
   134 mEq/L
   29.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2111-9-7**]  06:43 AM
                             [**2111-9-8**]  07:20 AM
                             [**2111-9-8**]  08:49 AM
                             [**2111-9-8**]  10:12 AM
                             [**2111-9-8**]  04:53 PM
   WBC
   3.9
   6.6
   Hct
   29.7
   29.6
   Plt
   426
   446
   Cr
   1.1
   0.8
   0.9
   TCO2
   27
   29
   Glucose
   136
   124
   157
   Other labs: PT / PTT / INR:14.5/34.4/1.3, ALT / AST:[**10-20**], Alk Phos / T
   Bili:86/0.3, Differential-Neuts:89.2 %, Band:0.0 %, Lymph:4.6 %,
   Mono:6.0 %, Eos:0.2 %, Lactic Acid:2.4 mmol/L, LDH:309 IU/L, Ca++:8.0
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   A/P: 57yoM metastatic RCC to lungs/brain, recently admitted for
   increased neck swelling with worsened neck LAD and neck mass, p/w
   stridor and respiratory failuire.
   .
   # Respiratory failure: Patient has metastatic renal cell carcinoma and
   recent imaging shows worsening of disease. CT-neck performed yesterday
   showed progression of disease, but no tracheal deviation or signs of
   compression.  Yesterday the patient p/w resp distress, inspiratory
   stridor and neck swelling likely due to extrinsic compression from
   bulky LAD and IJ clots. Patient continues to be intubated and sedated.
   Most recent ABG: pH 7.41 pCO2 44 pO2 147 HCO3 29. Afebrile with no
   evidence of pna.  ENT consulted and rec 10mg decadron x3 and monitor
   for cuff leakage.  Also, suggested evaluation by IP/Thoracics for
   possible tracheostomy to bypass compression.  However, family meeting
   today to discuss possible [**Month/Year (2) 617**].
   - family meeting today to define goals of care and possible [**Month/Year (2) 617**]
   - will f/u with oncology
   - cont decadron 4 mg IV q 6 to reduce extrinsic compression, will d/w
   onc regarding increasing to 10mg x3
   -will f/u with ENT, t/c IP/thoracics consult regarding trach if family
   agreeable for aggressive management, otherwise will hold off for now
   .
   # IJ/Subclavian/brachiocephalic DVT - had venous clots on previous
   admission, noted on imaging, +risk factors despite lovenox therapy.  No
   evidence of hemorrhage
   - Continue lovenox 100 [**Hospital1 **]
   .
   # RCC - as above, mets to lungs and brain - brain mets now s/p
   resection and cyberknife; s/p multiple rounds of chemotherapy. Most
   recently on study drug ABT 869.
   - further management per primary oncology team
   .
   # R venous sinus thrombosis: neuro exam nonfocal currently.
   - lovenox as above
   .
   # Hypertension: patient borderline hypotensive after sedation yesterday
   and receivied IVF.
   - Will hold all bp meds for now and restart when stable.
   .
   # hypothyroidism: cont levothyroxine at home dosage
   .
   # GERD: ppi [**Hospital1 **] per home regimen
   .
   # fEN: NPO, place OG tube, IVF to keep MAP > 65 and UO > 30 cc/hr, keep
   mg>2, k>4.
   .
   # PPx: lovenox. PPI
   .
   # access: PIV x2,
   .
   # CODE: DNR, family meeting today to discuss [**Hospital1 617**]
   .
   # DISP: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2111-9-8**] 08:27 AM
   18 Gauge - [**2111-9-8**] 08:29 AM
   Arterial Line - [**2111-9-8**] 10:09 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU
   Addendum:
   Spoke with patient
s family and patient himself was able to communicate
   his wishes to become [**Year (4 digits) 617**].  The rest of the family and friends will come
   by for the rest of the day to say their good-byes.   We will d/c all
   medications that will not benefit the patient
s comfort and no longer
   draw labs. The patient will continue to be intubated at this time.  The
   patient has upper airway compromise and removing the ET tube would
   result in severe distress.  The patient will have to be heavily sedated
   for withdrawl.  The plan is to discuss with the family how to best
   remove care.